US08084620B2
Step 2 A mixture of 3,5-dibromo-4-methylpyridine (2.00 g, 7.97 mmol), 6-methylisoindolin-1-one (1.173 g, 7.97 mmol), copper (I) iodide (0.076 g, 0.399 mmol), potassium carbonate (2.203 g, 15.94 mmol) and N1,N2-dimethylethane-1,2-diamine (0.070 g, 0.797 mmol) in 1,4-dioxane (20 mL) was heated at 100° C. for 15 h. The mixture was cooled to rt, filtered through Celite and washed with DCM. The filtrate was diluted with DCM (100 mL) and washed with water (10 mL) and brine (10 mL), then was dried and concentrated. The residue was purified by column chromatography (eluting with a gradient from 80:20 hexane-EtOAc to EtOAc) to give 2-(5-bromo-4-methylpyridin-3-yl)-5-methylisoindolin-1-one (760 mg, 30%). 1H NMR (400 MHz, chloroform-d) δ 8.68 (1H, s), 8.42 (1H, s), 7.84 (1H, d, J=7.77 Hz), 7.37 (1H, d, J=7.77 Hz), 7.34 (1H, s), 4.73 (2H, s), 2.50 (3H, s), 2.35 (3H, s). Mass spectrum m/z 317, 319 (M+H)+.

reactant | 3,5-dibromo-4-methylpyridine | 7.97 mmol, 2.00 g | BrC=1C=NC=C(C1C)Br | C6H5Br2N
reactant | 6-methylisoindolin-1-one | 7.97 mmol, 1.173 g | CC1=CC=C2CNC(C2=C1)=O | C9H9NO
reactant | potassium carbonate | 15.94 mmol, 2.203 g | C([O-])([O-])=O.[K+].[K+]
reactant | N1,N2-dimethylethane-1,2-diamine | 0.797 mmol, 0.070 g | CNCCNC | C4H12N2
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | copper (I) iodide | 0.399 mmol, 0.076 g | [Cu]I
product | 2-(5-bromo-4-methylpyridin-3-yl)-5-methylisoindolin-1-one | 760 mg, 30% | BrC=1C(=C(C=NC1)N1C(C2=CC=C(C=C2C1)C)=O)C | C15H13BrN2O
